US09255110B2
Pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (0.5 g, 3.06 mmol) was suspended in thionyl chloride (25 mL) and the resulting mixture was heated at 85° C. for 1.5 hours. The volatiles were then evaporated under high vacuum and the residue was suspended in pyridine (25 mL). 2-Amino-4-chlorophenol (0.46 g, 3.2 mmol) was added and the resulting mixture was heated at reflux overnight. The volatiles were then evaporated under high vacuum, water and dichloromethane were added to the residue and the mixture was evaporated under reduced pressure. The solid residue was washed with a mixture of dichloromethane and methanol (96/4) to give 0.588 g (67% yield) of pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (5-chloro-2-hydroxy-phenyl)-amide in mixture with pyrazolo[1,5-a]pyrimidine-3-carboxylic acid 4-chloro-2-[(pyrazolo[1,5-a]pyrimidine-3-carbonyl)-amino]-phenyl ester.

reactant | Pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 3.06 mmol, 0.5 g | N1=CC(=C2N1C=CC=N2)C(=O)O | C7H5N3O2
reactant | 2-Amino-4-chlorophenol | 3.2 mmol, 0.46 g | NC1=C(C=CC(=C1)Cl)O | C6H6ClNO
reactant | pyrazolo[1,5-a]pyrimidine-3-carboxylic acid 4-chloro-2-[(pyrazolo[1,5-a]pyrimidine-3-carbonyl)-amino]-phenyl ester | ClC1=CC(=C(C=C1)OC(=O)C=1C=NN2C1N=CC=C2)NC(=O)C=2C=NN1C2N=CC=C1 | C20H12ClN7O3
solvent | thionyl chloride | 25 mL | S(=O)(Cl)Cl | Cl2OS
product | pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (5-chloro-2-hydroxy-phenyl)-amide | 0.588 g, 67% yield | ClC=1C=CC(=C(C1)NC(=O)C=1C=NN2C1N=CC=C2)O | C13H9ClN4O2
